US06627755B1
A suspension of 265 mg (0.87 mmol) of 3-(2-chloro-phenyl)-6-fluoro-2-thioxo-2,3-dihydro-1H-quinazolin-4-one in 2.0 mL of POCl3 was treated with 300 mg of PCl5 and the mixture was refluxed for 2.5 hours. The solvent was evaporated and the residues were taken up in ethyl acetate, washed with water and brine, and then the solvent was evaporated to give 2-chloro-3-(2-chloro-phenyl)-6-fluoro-3H-quinazolin-4-one as a solid. This material was dissolved in 10 mL of absolute ethanol and 216 mg (1.73 mmol) of 2-fluorobenzylamine and the mixture was refluxed overnight. The reaction mixture was cooled and the solvent was evaporated. The residues were partitioned between ethyl acetate and dilute HCl and the aqueous phase was extracted further with ethyl acetate. The combined organic extracts were dried with brine and with magnesium sulfate (MgSO4) and evaporated to give a gum which was crystallized from ether to give 157 mg (45%) of the desired product, m.p. 163-165° C.

reactant | 3-(2-chloro-phenyl)-6-fluoro-2-thioxo-2,3-dihydro-1H-quinazolin-4-one | 0.87 mmol, 265 mg | ClC1=C(C=CC=C1)N1C(NC2=CC=C(C=C2C1=O)F)=S | C14H8ClFN2OS
reactant | PCl5 | 300 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | POCl3 | 2.0 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-3-(2-chloro-phenyl)-6-fluoro-3H-quinazolin-4-one | ClC1=NC2=CC=C(C=C2C(N1C1=C(C=CC=C1)Cl)=O)F | C14H7Cl2FN2O
